### PR TITLE
[Merged by Bors] - feat(Algebra/Adjoin): singleton as aeval

### PR DESCRIPTION
**Pull request by xgenereux**
For `x : A`, elements of `Algebra.adjoin R {x}` can be represented as a polynomial of `R` evaluated at the point `x`.
This PR introduces three (3) theorems related to this:
- `adjoin_mem_exists_aeval` rewrite an element of `A` in `adjoin R {x}` as the `aeval` of some polynomial.
- `adjoin_eq_exists_aeval` rewrite an element `adjoin R {x}` as the `aeval` of some polynomial.
- `adjoin_singleton_induction`: an induction principle reducing problems over `adjoin R {x}` to problems of the form `M (⟨aeval x p, aeval_mem_adjoin_singleton R x⟩ : adjoin R {x})`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Adjoin/Polynomial.lean [hunk 1]
```diff
@@ -28,29 +28,50 @@ variable {R : Type u} {S : Type v} {T : Type w} {A : Type z} {A' B : Type*} {a b
...
-    Algebra.adjoin R {x} = (Polynomial.aeval x).range := by
+    adjoin R {x} = (aeval x).range := by
   rw [← Algebra.map_top, ← adjoin_X, AlgHom.map_adjoin, Set.image_singleton, aeval_X]
 
 @[simp]
-theorem aeval_mem_adjoin_singleton :
-    aeval x p ∈ Algebra.adjoin R {x} := by
-  simpa only [Algebra.adjoin_singleton_eq_range_aeval] using Set.mem_range_self p
+theorem aeval_mem_adjoin_singleton : aeval x p ∈ adjoin R {x} := by
+  simpa only [adjoin_singleton_eq_range_aeval] using Set.mem_range_self p
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Adjoin/Polynomial.lean]: Can you unsqueeze this?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by riccardobrasca** [comment]
bors d+

File: Mathlib/RingTheory/Adjoin/Polynomial.lean (hunk 1 above)
Comment (xgenereux) [reply Mathlib/RingTheory/Adjoin/Polynomial.lean]: I am not sure what is meant by unsqueeze sorry. Are you asking me to reintroduce the new line or to readd the `Algebra` in front of the def/thms?

Comment (riccardobrasca) [reply Mathlib/RingTheory/Adjoin/Polynomial.lean]: Replace `simpa only` by `simpa ...`
